US05204178
10 g of 11-bromoundecan-1-ol, 4 g of dry potassium carbonate powder, 8.27 g of 4-nitrophenylpiperazine and 2 drops of the conventional and known phase transfer catalyst Aliquat® 336 in 50 ml of dimethylpropyleneurea were heated at 85° C. for 6 hours and then left to stand for 2 days. The reaction mixture was then poured into 500 ml of water. The precipitated crude product was filtered off under suction (first fraction). The water phase was extracted a further three times with 50 ml of toluene in each case and four times with 50 ml of ethyl acetate in each case. The combined extracts were evaporated down and the remaining crude product fraction (second fraction) was combined with the first fraction, after which the combined crude product fractions were recrystallized from a mixture of ethanol and water in a volume ratio of 2:1. The recrystallized product was dried under reduced pressure, after which 7.8 g of N-(11-hydroxyundecyl)-N'-(4-nitrophenyl)-piperazine resulted. The product had the following physical properties: melting point 118° C., IR spectrum (KBr pellet): bands at 3,550, 2,900, 2,850, 1,595, 1,575, 1,470, 1,333, 1,255, 1,250, 1,115, 820 and 750 cm-1 ; elemental analysis: calculated 66.8% C, 9.34% H, 11.13% N and 12.7% O; found: 66.8% C, 9.4% H, 11.1% N and 12.7% O.

reactant | 11-bromoundecan-1-ol | 10 g | BrCCCCCCCCCCCO | C11H23BrO
reactant | potassium carbonate | 4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-nitrophenylpiperazine | 8.27 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCNCC1 | C10H13N3O2
reactant | water | 500 ml | O | H2O
catalyst | Aliquat® 336 | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | dimethylpropyleneurea | 50 ml | CN1CCCN(C1=O)C | C6H12N2O
product | N-(11-hydroxyundecyl)-N'-(4-nitrophenyl)-piperazine | 7.8 g | OCCCCCCCCCCCN1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C21H35N3O3
